US05273999
Preparation of 1,2-Dihydro-8-methoxy-3H-naphtho[2,1-b]-pyran-3-one
Starting with a solution of 6.29 g (36.1 mmol) of 6-methoxy-2-naphthalenol, 12.58 g (72.2 mmol) of triethyl orthoacrylate and 1.84 g (18.1 mmol) of trimethylacetic acid in 70 mL of toluene, the title compound (7.12 g; 86.4%) was obtained as a white solid, mp 122°-123° C., using the procedure of example 220.

reactant | 6-methoxy-2-naphthalenol | 36.1 mmol, 6.29 g | COC=1C=C2C=CC(=CC2=CC1)O | C11H10O2
reactant | triethyl orthoacrylate | 72.2 mmol, 12.58 g | CCC(=C(CC)C([O-])([O-])[O-])CC
reactant | trimethylacetic acid | 18.1 mmol, 1.84 g | CC(C(=O)O)(C)C | C5H10O2
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 1,2-Dihydro-8-methoxy-3H-naphtho[2,1-b]-pyran-3-one | 7.12 g, 86.4% | COC=1C=C2C=CC=3OC(CCC3C2=CC1)=O | C14H12O3
